Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Left thumb ischemia, left thumb felon
 
Major Surgical or Invasive Procedure:
Bedside I&D left thumb (___).

 
History of Present Illness:
___ is a ___ yo F, RHD, unemployed, with PMH of ETOH
abuse, opioid abuse (on ___, and hx of RUE DVT ___ yr ago 
(on
Eliquis) who presents with 3 weeks of progressive pain, pallor,
and coolness of the left thumb. She notes this started
immediately after she had a friend inject ___ into the 
volar
aspect of her L wrist 3 weeks ago. Immediately she felt a sharp,
shooting pain down her thumb and noted her thumb became pale,
tender, and cool over the next ___ hours. She went to OSH in ___ where an US was performed. She was told it was 
negative
and was sent home. She returned to the OSH ED a week later and
was sent to follow up with a Hand Surgeon. The Hand surgeon also
performed an US, which she was told was "negative" and told to
follow up in 1 month. 

The pain continued to worsen since her visit and she presented 
to
___ last night and was transferred to ___ ED for
further evaluation by the vascular and hand surgery teams.

She notes that the pain and pallor has progressed to the tips of
the index and long finger on the left side as well. She denies
fever, chills, SOB, CP, palpitations, numbness/tingling, 

 
Past Medical History:
___: 
-Hospitalized last ___ for a month with possible bacteremia;
patient stated "something in my blood...I needed IV 
antibiotics".

-HTN
-RUE DVT on Eliquis (prescribed by PCP)
-Percocet abuse, on ___ (prescribed by PCP)
-Anxiety

PSH:
None              
 
Social History:
___
Family History:
FH: 
non-contributory   
 
Physical Exam:
Right Hand: Non-tender. No lacerations.
Vascular: Palpable radial and ulnar pulses. Doppler signal
present to palmar arch. Signal to distal digits present.
Capillary refill is 2 seconds.
Motor: Full range of motion to FDP,FDS of digits. Strength ___.
Sensory: Intact to light touch.

Left Hand: L thumb with visible mottling and pallor
circumferentially and distal to MCP; worse distal to IP joint.
tender to palpation.  No lacerations. 
Vascular: Palpable radial and ulnar pulses. Doppler signal
present to palmar arch. Superficial arch intact. Signal to 
distal
digits present; except for ulnar digital artery to L thumb.
Capillary refill is not present at tip of thumb and sluggish
(<4secs) @ index and long finger. Otherwise ring and small 
finger
cap refill normal 
Motor: Full range of motion to FDP,FDS of digits. Strength ___.
Limited due to pain. Fires FPL and EPL. 
Sensory: Intact to light touch in all distributions. 
 
Brief Hospital Course:
The patient presented to the emergency department and was 
evaluated by the hand surgery team. The patient was found to 
have left thumb felon as well as left thumb ischemia and was 
admitted to the hand surgery service.  Bedside I&D of the left 
thumb was performed in the emergency department.  No issues with 
the procedure, and patient tolerated procedure well.  The wound 
was subsequently packed with packing tape and wrapped in dry 
gauze.  Vascular surgery was consulted regarding ischemia in the 
thumb.  Given the distal nature of the ischemia, vascular 
surgery recommended no surgical intervention at this time.  
Medicine was briefly consulted regarding the need for 
anticoagulation.  Given that there was no plan for surgical 
intervention, patient recommended continuing home apixaban with 
similar efficacy as compared to therapeutic heparin drip.  On 
postop day 1, patient thumb and wound was reevaluated.  Packing 
was removed, and patient started twice daily soapy water soaks.  
The plan is for the patient's left digit ischemia to self 
declare over the next few weeks, and after all viable tissue has 
demarcated itself, she would follow-up in clinic for further 
evaluation about possible soft tissue coverage options.  
Addiction psychiatry was consulted and evaluated the patient.  
They helped determine that the patient's ___ should be held 
for the time being, and that discharging the patient with 1 week 
worth of opioid pain medication would be safe. The patient's 
home medications were continued throughout this hospitalization. 
The patient worked with ___ who determined that discharge to home 
was appropriate. The ___ hospital course was otherwise 
unremarkable.

At the time of discharge the patient's pain was well controlled 
with oral medications, incisions were clean/dry/intact, and the 
patient was voiding/moving bowels spontaneously. The patient is 
nonweightbearing in the left upper extremity, and will be 
discharged on her home apixaban. The patient will follow up with 
Dr. ___ routine. A thorough discussion was had with the 
patient regarding the diagnosis and expected post-discharge 
course including reasons to call the office or return to the 
hospital, and all questions were answered. The patient was also 
given written instructions concerning precautionary instructions 
and the appropriate follow-up care. The patient expressed 
readiness for discharge.
 
Medications on Admission:
6.  Apixaban 5 mg PO BID  
7.  ClonazePAM 0.5 mg PO TID:PRN anxiety  
8.  TraZODone 100 mg PO QHS:PRN insomnia  

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Docusate Sodium 100 mg PO BID  
3.  OxyCODONE (Immediate Release) 5 mg PO Q3H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 tablet(s) by mouth q4h prn Disp #*40 Tablet 
Refills:*0 
4.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Third 
Line  
5.  Senna 8.6 mg PO BID:PRN Constipation - First Line  
6.  Apixaban 5 mg PO BID  
7.  ClonazePAM 0.5 mg PO TID:PRN anxiety  
8.  TraZODone 100 mg PO QHS:PRN insomnia  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left thumb felon, left thumb ischemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Nonweightbearing left upper extremity
-Twice daily soapy water soaks for the thumb.  After soaking for 
20 minutes, pack with half-inch packing tape, dry gauze 
dressing.
-Do not restart your ___ until you have tapered off her 
oxycodone.
 
Followup Instructions:
___